US08383652B2
1.2 g (55 mmol) of lithium borohydride are added to a solution of 5.93 g (18 mmol) of methyl 3-(2-ethoxyethoxy)-4-iodobenzoate in 30 mL of tetrahydrofuran. The reaction mixture is heated at 60° C. overnight and then hydrolyzed in ice-cold saturated ammonium chloride solution. The reaction medium is neutralized with concentrated hydrochloric acid and then extracted with ethyl acetate. The organic phases are washed with water and dried over sodium sulfate. The solvent is evaporated off and 5.43 g (99%) of [3-(2-ethoxyethoxy)-4-iodophenyl]methanol are obtained in the form of a colorless oil.

reactant | lithium borohydride | 55 mmol, 1.2 g | [BH4-].[Li+]
reactant | methyl 3-(2-ethoxyethoxy)-4-iodobenzoate | 18 mmol, 5.93 g | C(C)OCCOC=1C=C(C(=O)OC)C=CC1I | C12H15IO4
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | [3-(2-ethoxyethoxy)-4-iodophenyl]methanol | 5.43 g, 99% | C(C)OCCOC=1C=C(C=CC1I)CO | C11H15IO3
